US08470841B2
36b 2-{3-[4-(6-Benzyloxypyridin-3-yloxy)phenyl]-1-methylprop-2-ynyl}isoindole-1,3-dione
2-Benzyloxy-5-(4-bromophenoxy)pyridine (826 mg, 2.32 mmol) and 2-(1-methylprop-2-ynyl)isoindole-1,3-dione (693 mg, 3.48 mmol) were dissolved in anhydrous acetonitrile under argon and admixed with triethylamine (2.78 ml, 19.94 mmol), copper iodide (22.1 mg, 0.116 mmol) and bis(triphenylphosphine)palladium(II) chloride (81.4 mg, 0.116 mmol). The reaction mixture was stirred at 100° C. in a microwave reactor for 30 min. A further 0.75 equivalent of the reactants were added and the stirring was continued at 100° C. for a further 60 min. The batch was concentrated, admixed with ethyl acetate and water and filtered, and the organic phase was separated off and concentrated. The crude product was further reacted without purification.

reactant | 2-Benzyloxy-5-(4-bromophenoxy)pyridine | 2.32 mmol, 826 mg | C(C1=CC=CC=C1)OC1=NC=C(C=C1)OC1=CC=C(C=C1)Br | C18H14BrNO2
reactant | 2-(1-methylprop-2-ynyl)isoindole-1,3-dione | 3.48 mmol, 693 mg | CC(C#C)N1C(C2=CC=CC=C2C1=O)=O | C12H9NO2
reactant | triethylamine | 19.94 mmol, 2.78 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | copper iodide | 0.116 mmol, 22.1 mg | [Cu](I)I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.116 mmol, 81.4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-{3-[4-(6-Benzyloxypyridin-3-yloxy)phenyl]-1-methylprop-2-ynyl}isoindole-1,3-dione | C(C1=CC=CC=C1)OC1=CC=C(C=N1)OC1=CC=C(C=C1)C#CC(C)N1C(C2=CC=CC=C2C1=O)=O | C30H22N2O4
